US08975406B2
Step iii): 1-(Methyl sulfonyl)-4-(1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl)piperazine
1-(1-(4-Bromophenyl)ethyl)-4-(methylsulfonyl)piperazine (2.96 g, 8.53 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (2.39 g, 9.40 mmol), PdCl2dppf (0.36 g, 0.44 mmol), dppf (0.24 g, 0.44 mmol) and KOAc (2.52 g, 25.7 mmol) were stirred in 1,4-dioxane (50 mL) and heated to 100° C. for 1 d under N2. The reaction mixture was concentrated in vacuo and dissolved in EtOAc and filtered through celite. The filtrate was concentrated in vacuo and the residue was purified by column chromatography using silica gel and eluting with 100% isohexanes to 100% EtOAc to give the title compound as a colourless solid.

reactant | 1-(1-(4-Bromophenyl)ethyl)-4-(methylsulfonyl)piperazine | 8.53 mmol, 2.96 g | BrC1=CC=C(C=C1)C(C)N1CCN(CC1)S(=O)(=O)C | C13H19BrN2O2S
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 9.40 mmol, 2.39 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | KOAc | 25.7 mmol, 2.52 g | CC(=O)[O-].[K+]
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
catalyst | dppf | 0.44 mmol, 0.24 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | 1-(Methyl sulfonyl)-4-(1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl)piperazine | CS(=O)(=O)N1CCN(CC1)C(C)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C19H31BN2O4S
